US07834043B2
(2R)-2-[(methoxycarbonyl)amino]-3-methyl-3-(methylsulfanyl)butanoic acid
A solution of L-penicillamine (0.5 g, 3.35 mmol) in methanol (3.3 mL) at 0° C. was treated with aqueous NaOH solution (3.7 mL, 1 N) and methyl iodide (0.23 mL, 3.69 mmol), stirred at 0° C. for 16 hours, treated with additional aqueous NaOH solution (3.5 mL, 3 N) at 0° C., followed by methyl chloroformate (0.5 mL, 6.47 mmol), warmed to 25° C. and stirred for 3 hours, and partitioned between ethyl acetate and water. The organic phase was washed with brine and dried over MgSO4, filtered and concentrated to give the title compound (0.428 g, 58% yield), which was used without further purification.

reactant | L-penicillamine | 3.35 mmol, 0.5 g | N[C@@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | NaOH | 1 N, 3.7 mL | [OH-].[Na+]
reactant | methyl iodide | 3.69 mmol, 0.23 mL | CI | CH3I
reactant | NaOH | 3 N, 3.5 mL | [OH-].[Na+]
reactant | methyl chloroformate | 6.47 mmol, 0.5 mL | ClC(=O)OC | C2H3ClO2
solvent | methanol | 3.3 mL | CO | CH4O
product | (2R)-2-[(methoxycarbonyl)amino]-3-methyl-3-(methylsulfanyl)butanoic acid | 0.428 g, 58% yield | COC(=O)N[C@H](C(=O)O)C(C)(SC)C | C8H15NO4S
